US08022223B2
4-(5-Bromo-2-(thiazolo[5,4-b]pyridin-2-ylamino)pyridin-3-ylthio)benzoic acid
Heated a mixture of methyl 4-(5-bromo-2-(thiazolo[5,4-b]pyridin-2-ylamino)pyridin-3-ylthio)benzoate hydrochloride (0.570 g, 1.12 mmol), 1N aqueous sodium hydroxide (2.80 mL, 2.80 mmol), and methanol (6 mL) at 65° C. for an hour. Cooled, and partitioned between saturated NH4Cl (30 mL), 1N HCl (3 mL), water (10 mL) and chloroform. The mixture was filtered, washed with water, and dried to afford the title compound (0.360 g, 70.1% yield). 1H NMR (d-DMSO) δ 7.35 (dd, 1H), 7.43 (d, 2H), 7.50 (s, 1H), 7.67 (d, 1H), 7.94 (d, 2H), 8.44 (s, 1H).

reactant | methyl 4-(5-bromo-2-(thiazolo[5,4-b]pyridin-2-ylamino)pyridin-3-ylthio)benzoate hydrochloride | 1.12 mmol, 0.570 g | Cl.BrC=1C=C(C(=NC1)NC=1SC2=NC=CC=C2N1)SC1=CC=C(C(=O)OC)C=C1
reactant | sodium hydroxide | 2.80 mmol, 1N, 2.80 mL | [OH-].[Na+]
solvent | methanol | 6 mL | CO | CH4O
product | 4-(5-Bromo-2-(thiazolo[5,4-b]pyridin-2-ylamino)pyridin-3-ylthio)benzoic acid | 0.360 g, 70.1% yield | BrC=1C=C(C(=NC1)NC=1SC2=NC=CC=C2N1)SC1=CC=C(C(=O)O)C=C1 | C18H11BrN4O2S2
